US08614206B2
To a solution of 4-(aminomethyl)-1-(2-methyl-4-nitro-pyrazol-3-yl)piperidin-4-ol (150 mg, 0.58 mml), triethylamine (0.12 mL, 0.88 mmol) and DMAP (17 mg, 0.15 mmol) in DCM (10 mL) cooled to 0° C. was added slowly a solution of di-tert-butyl dicarbonate (140 mg, 0.65 mmol) in DCM (2 mL). The reaction mixture was stirred at room temperature for 16 hr. Water (10 mL) was added and the aqueous layer extracted with DCM (3×15 mL). The combined organic layers were washed with brine (15 mL), passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (1-10% MeOH/DCM) gave tert-butyl N-((4-hydroxy-1-(2-methyl-4-nitro-pyrazol-3-yl)-4-piperidyl)methyl)carbamate as a yellow solid (140 mg, 68%). 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 5.10-5.03 (m, 1H), 3.76 (s, 3H), 3.61-3.49 (m, 2H), 3.25 (d, J=6.3 Hz, 2H), 3.08-2.96 (m, 2H), 1.77-1.72 (m, 4H), 1.46 (s, 9H). OH not observed.

reactant | 4-(aminomethyl)-1-(2-methyl-4-nitro-pyrazol-3-yl)piperidin-4-ol | 150 mg | NCC1(CCN(CC1)C=1N(N=CC1[N+](=O)[O-])C)O | C10H17N5O3
reactant | triethylamine | 0.88 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.65 mmol, 140 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 10 mL | O | H2O
catalyst | DMAP | 0.15 mmol, 17 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-((4-hydroxy-1-(2-methyl-4-nitro-pyrazol-3-yl)-4-piperidyl)methyl)carbamate | 140 mg, 68% | OC1(CCN(CC1)C=1N(N=CC1[N+](=O)[O-])C)CNC(OC(C)(C)C)=O | C15H25N5O5
